US08053039B2
To an ice cooled solution of 1.47 g of 4-{[6-(acryloyloxy)hexyl]oxy}benzoic acid (5.00 mM) and 0.24 g of DMAP (2.00 mM) in 20 ml of dichloromethane, was added a solution of 1.03 g of DCC (5.00 mM) in 10 ml of dichloromethane dropwise. After complete addition (within 15 min) stirring was continued at 0° C. for further 90 min., then 2.57 g of 4-{6-[(E)-(4-{(E)-[4-(dimethylamino)phenyl]diazenyl}phenyl)-diazenyl]-2,3-dihydro-1H-perimidin-2-yl}-phenol (5.00 mM) were added to the reaction mixture which is further stirred for 3 h at room temperature. The obtained dark-brown mixture was filtered through a pad of 20 g of celite filter aid, the cake was washed with 60 ml of dichloromethane and the filtrate was concentrated to approximately ⅓, followed by precipitation with cyclohexane/hexane 50 ml/50 ml. The obtained brown precipitate was filtered off, washed with 10 ml of hexane and dried to give 3.80 g (4.80 mM, 96%) of 4-{6-[(E)-(4-{(E)-[4-(dimethylamino)phenyl]diazenyl}phenyl)diazenyl]-2,3-dihydro-1H-perimidin-2-yl}phenyl 4-{[6-(acryloyloxy)hexyl]oxy}benzoate dark-brown powder; λmax=547 nm, ε=53000 (THF). For total purification, the dye might be flash chromatographed on silica gel.

reactant | 4-{[6-(acryloyloxy)hexyl]oxy}benzoic acid | 5.00 mM, 1.47 g | C(C=C)(=O)OCCCCCCOC1=CC=C(C(=O)O)C=C1 | C16H20O5
reactant | DCC | 5.00 mM, 1.03 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 4-{6-[(E)-(4-{(E)-[4-(dimethylamino)phenyl]diazenyl}phenyl)-diazenyl]-2,3-dihydro-1H-perimidin-2-yl}-phenol | 5.00 mM, 2.57 g | CN(C1=CC=C(C=C1)/N=N/C1=CC=C(C=C1)/N=N/C1=CC=C2NC(NC=3C=CC=C1C32)C3=CC=C(C=C3)O)C | C31H27N7O
catalyst | DMAP | 2.00 mM, 0.24 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-{6-[(E)-(4-{(E)-[4-(dimethylamino)phenyl]diazenyl}phenyl)diazenyl]-2,3-dihydro-1H-perimidin-2-yl}phenyl 4-{[6-(acryloyloxy)hexyl]oxy}benzoate | 4.80 mM, 3.80 g, 96% | C(C=C)(=O)OCCCCCCOC1=CC=C(C(=O)OC2=CC=C(C=C2)C2NC=3C=CC=C4C(=CC=C(N2)C34)\N=N\C3=CC=C(C=C3)\N=N\C3=CC=C(C=C3)N(C)C)C=C1 | C47H45N7O5
